US06627629B2
Preparation of 1-{(3R,4R)-3-[(S)-3-(4-Fluoro-benzyl)-piperidine-1-carbonyl]-1-methanesulfonyl-piperidin-4-yl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea
In a dry flask 1-{(3R,4R)-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidin-4-yl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea (67 mg, 0.11 mmol) was dissolved in dichloromethane (2 mL), and then triethylamine (65 ·L, 0.47 mmol) and methanesulfonyl chloride (9 μL, 0.11 mmol) were added. The reaction mixture was stirred for 25 minutes. The reaction mixture was concentrated in vacuo then was purified by preparative reverse-phase HPLC (10-80% acetonitrile in water with 0.05% trifluoroacetic acid) to give a white amorphous solid (38 mg, 60%). 1H NMR NMR (400 MHz, DMSO-d6, 140° C.), δ: 8.37 (s, 1H), 7.89 (t, 1H, J=2), 7.54 (d, 1H, J=6), 7.44(t, 1H, J=8), 7.35 (m, 1H), 7.14 (m, 2H), 6.99 (t, 2H, J=9), 6.05 (d, 1H, J=8), 4.12 (s, 3H), 4.05 (d, 2H, J=14), 3.85 (m, 1H), 3.63 (m, 2H), 3.16 (td, 1H, J=10, J′=4), 2.90 (m, 3H), 2.88 (s, 3H), 2.66 (m, 1H), 2.56 (dd, 1H, J=14, J′=6), 2.44 (dd, 1H, J=14, J′=8), 2.01 (m, 1H), 1.79 (qd, 1H, J=13, J′=4), 1.65 (bs, 3H), 1.40 (m, 1H), 1.20 (m, 1H). HRMS (ESI), C28H36FN8O4S m+/z: calc. 599.2564, found=599.2586.

reactant | 1-{(3R,4R)-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidin-4-yl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | 0.11 mmol, 67 mg | FC1=CC=C(C[C@H]2CN(CCC2)C(=O)[C@@H]2CNCC[C@H]2NC(=O)NC2=CC(=CC=C2)C2=NN=NN2C)C=C1 | C27H33FN8O2
reactant | triethylamine | 0.47 mmol | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.11 mmol, 9 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-{(3R,4R)-3-[(S)-3-(4-Fluoro-benzyl)-piperidine-1-carbonyl]-1-methanesulfonyl-piperidin-4-yl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | 38 mg, 60% | FC1=CC=C(C[C@H]2CN(CCC2)C(=O)[C@@H]2CN(CC[C@H]2NC(=O)NC2=CC(=CC=C2)C2=NN=NN2C)S(=O)(=O)C)C=C1 | C28H35FN8O4S
